US08431695B2
Step 2: Preparation of 5-bromo-7-(4-pyrrolidin-1-ylbutyl)pyrrolo[2,1-f][1,2,4]triazin-4-amine
To a solution of 5-bromo-7-(4-bromobutyl)pyrrolo[2,1-f][1,2,4]triazin-4-amine (597 mg, 1.72 mmol) in DMF (10 mL) was added pyrrolidine (158 μL, 1.89 mmol), triethylamine (717 μL, 5.15 mmol), and sodium iodide (26 mg, 0.17 mmol). The reaction was heated (55° C.) for 22 h and then cooled to rt. The mixture was partitioned between ethyl acetate (50 mL) and water (50 mL). The layers were separated and the aqueous phase was further extracted with ethyl acetate (3×50 mL). The combined organics were washed with water (1×50 mL), brine, dried (Na2SO4) and evaporated to afford 467 mg (80%) of the desired product. 1H NMR (300 MHz, DMSO-d6) δ 7.81 (s, 1 H), 6.60 (s, 1 H), 2.81 (t, 2 H), 2.40-2.31 (m, 6 H), 1.70-1.59 (m, 6 H), 1.50-1.40 (m, 2 H); ES-MS m/z 338.1 [M+H]+, HPLC RT (min) 1.12.

reactant | 5-bromo-7-(4-bromobutyl)pyrrolo[2,1-f][1,2,4]triazin-4-amine | 1.72 mmol, 597 mg | BrC=1C=C(N2N=CN=C(C21)N)CCCCBr | C10H12Br2N4
reactant | pyrrolidine | 1.89 mmol, 158 μL | N1CCCC1 | C4H9N
reactant | triethylamine | 5.15 mmol, 717 μL | C(C)N(CC)CC | C6H15N
reactant | sodium iodide | 0.17 mmol, 26 mg | [I-].[Na+]
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | 5-bromo-7-(4-pyrrolidin-1-ylbutyl)pyrrolo[2,1-f][1,2,4]triazin-4-amine | 467 mg, 80% | BrC=1C=C(N2N=CN=C(C21)N)CCCCN2CCCC2 | C14H20BrN5
